US08003703B2
(i) Benzyl 2-fluoro-5-(trifluoromethyl)phenyl ether
A mixture of 5-(trifluoromethyl)-2-fluorophenol (2.0 g), benzyl bromide (1.45 ml) and potassium carbonate (1.65 g) in dry DMF (20 ml) was stirred at RT overnight. The mixture was quenched with water and the solid filtered and dried, yield 2.20 g.

reactant | 5-(trifluoromethyl)-2-fluorophenol | 2.0 g | FC(C=1C=CC(=C(C1)O)F)(F)F | C7H4F4O
reactant | benzyl bromide | 1.45 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | Benzyl 2-fluoro-5-(trifluoromethyl)phenyl ether | FC1=C(C=C(C=C1)C(F)(F)F)OCC1=CC=CC=C1 | C14H10F4O
